US05051413
A mixture of 2.37 g (10 mmols) of ethyl E-2-amino-4-methyl-5-phosphono-pentenoate, 14.3 g (100 mmols) of p-chlorobenzyl alcohol, 10 ml of dichloromethane and 20 ml of 4N hydrochloric acid is allowed to stand at room temperature for 1 week. The reaction mixture is evaporated to dryness, the residue is dissolved in 25 ml of ethanol and a solution of 15 ml of propylene oxide in 15 ml of ethanol is added dropwise. The crystalline precipitate formed is collected, washed twice with water, filtrated and dried. p-chlorobenzyl E-2-amino-4-methyl-5-phosphono-pentenoate of m.p. 207°-208° is thus obtained.

reactant | ethyl E-2-amino-4-methyl-5-phosphono-pentenoate | 10 mmols, 2.37 g | N\C(\C(=O)OCC)=C\C(CP(=O)(O)O)C | C8H16NO5P
reactant | p-chlorobenzyl alcohol | 100 mmols, 14.3 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | hydrochloric acid | 4N, 20 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | p-chlorobenzyl E-2-amino-4-methyl-5-phosphono-pentenoate | N\C(\C(=O)OCC1=CC=C(C=C1)Cl)=C\C(CP(=O)(O)O)C | C13H17ClNO5P
